US07951956B2
Sodium hydrogensulfite (1.0 g) and 3,5-dimethyl-4-formylpyrrole-2-carboxylic acid ethyl ester (1.5 g) were added to an N,N-dimethylacetamide (20 ml) solution of 3,4-diaminobenzophenone (1.6 g), and the mixture was heated to 120° C. and stirred for 10 hours. After the mixture was allowed to cool to room temperature, a 5% sodium carbonate (60 g) was added and stirred at room temperature, and the precipitate was collected by filtration and washed with water. The obtained solid was dissolved in ethanol (15 ml) and tetrahydrofuran (15 ml), and a 4 N sodium hydroxide aqueous solution (20 ml) was added and heated under reflux for 12 hours. After the starting material was disappeared, the reaction mixture was allowed to cool to room temperature, and neutralized with a 1 N hydrochloric acid solution. The precipitate was collected by filtration to afford 4-(5-benzoylbenzimidazol-2-yl)-dimethylpyrrole-2-carboxylic acid (2.3 g, 90%) as a light yellow solid.

reactant | Sodium hydrogensulfite | 1.0 g | S(=O)(O)[O-].[Na+]
reactant | 3,5-dimethyl-4-formylpyrrole-2-carboxylic acid ethyl ester | 1.5 g | C(C)OC(=O)C=1NC(=C(C1C)C=O)C | C10H13NO3
reactant | 3,4-diaminobenzophenone | 1.6 g | NC=1C=C(C(=O)C2=CC=CC=C2)C=CC1N | C13H12N2O
reactant | sodium carbonate | 60 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | N,N-dimethylacetamide | 20 ml | CN(C(C)=O)C | C4H9NO
product | 4-(5-benzoylbenzimidazol-2-yl)-dimethylpyrrole-2-carboxylic acid | 2.3 g, 90% | C(C1=CC=CC=C1)(=O)C1=CC2=C(N=C(N2)C=2C(=C(NC2C)C(=O)O)C)C=C1 | C21H17N3O3
